US06174881B1
A solution of 22.0 g of 7-chloro-5-(2-fluorophenyl)-2-methylthio-3H-1,4-benzodiazepine and 20.0 g of L-threonine methyl ester hydrochloride in 200 ml of pyridine was stirred at 75° C. for 5 h. The solvent was removed in a vacuum and the residue was purified by chromatography on 800 g of silica gel with dichloromethane containing 5% methanol. There were obtained 16.3 g (59%) of methyl 2-[7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-ylamino]-3-hydroxy-butyrate as a diastereomer mixture which was used without further purification as the starting product for the step described below.

reactant | 7-chloro-5-(2-fluorophenyl)-2-methylthio-3H-1,4-benzodiazepine | 22.0 g | ClC=1C=CC2=C(C(=NCC(=N2)SC)C2=C(C=CC=C2)F)C1 | C16H12ClFN2S
reactant | L-threonine methyl ester hydrochloride | 20.0 g | Cl.COC([C@@H](N)[C@H](O)C)=O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-[7-chloro-5-(2-fluorophenyl)-3H-1,4-benzodiazepin-2-ylamino]-3-hydroxy-butyrate | 16.3 g, 59% | ClC=1C=CC2=C(C(=NCC(=N2)NC(C(=O)OC)C(C)O)C2=C(C=CC=C2)F)C1 | C20H19ClFN3O3
